US04420424
(A) H-Val-Val-OMe.HCl
30 g of Z-Val-Val-OMe (prepared as in Chem. Ber. 103, 788-798 (1970)) are dissolved in 250 ml of methanol and subjected to catalytic hydrogenation at pH 4 after adding methanolic hydrochloric acid and Pd-on-BaSO4. When the reaction is complete, the catalyst is filtered off and the filtrate is concentrated. The resulting oil is triturated with ether. The substance crystallizes after a little time. It is filtered off and rinsed with ether. The substance is hygroscopic and is dried over P2O5 in vacuo. Yield 18.8 g, melting point 153°. [α]D23 =+2.5° (c=1, in methanol).

reactant | Z-Val-Val-OMe | 30 g | N([C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C19H28N2O5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
product | H-Val-Val-OMe.HCl | N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC.Cl | InChI=1S/C11H22N2O3.ClH/c1-6(2)8(12)10(14)13-9(7(3)4)11(15)16-5;/h6-9H,12H2,1-5H3,(H,13,14);1H/t8-,9-;/m0./s1
